US04372953
1-Methyl-5-(4-bromobutyl)thio-1,2,3,4-tetrazole prepared in Reference Example 2 is dissolved in formic acid (50 ml). 30% Aqueous hydrogen peroxide (2.3 g) is added to the solution with stirring at room temperature and the mixture is allowed to stand at room temperature for 2 overnights. The mixture is diluted with water and extracted with chloroform. The chloroform solution is washed with water, saturated aqueous sodium bicarbonate and then saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off to obtain 1-methyl-1,2,3,4-tetrazol-5-yl 4-bromobutyl sulfoxide (5.5 g) as colorless liquid.

reactant | 1-Methyl-5-(4-bromobutyl)thio-1,2,3,4-tetrazole | CN1N=NN=C1SCCCCBr | C6H11BrN4S
reactant | hydrogen peroxide | 2.3 g | OO | H2O2
solvent | formic acid | 50 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | 1-methyl-1,2,3,4-tetrazol-5-yl 4-bromobutyl sulfoxide | 5.5 g | BrCCCCS(=O)C1=NN=NN1C | C6H11BrN4OS
